US09056874B2
(±)-1-(7-Methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)ethane-1,2-diol
To a suspension of (±)-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-5-vinyl-1H-indole (1.8 g, 4.2 mmol) in tert-BuOH (70 mL)/H2O (70 mL) was added AD-mix-alpha (5 g, 4.2 mmol), and then the mixture was stirred at room temperature for 24 h. The reaction was quenched by aq. Na2S2O3, and the whole mixture was stirred for 0.25 h. The mixture was diluted with CH2Cl2 and partitioned. The organic phase was washed with H2O and brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by SiO2 column chromatography (CH2Cl2/MeOH=94/6) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ 7.84 (d, J=3.79 Hz, 1H), 7.62 (d, J=8.34 Hz, 2H), 7.40 (d, J=8.34 Hz, 2H), 7.18 (s, 1H), 6.95-6.98 (m, 1H), 5.14 (dd, J=3.92, 6.95 Hz, 1H), 4.69-5.03 (m, 3H), 4.52-4.68 (m, 2H), 3.74-3.92 (m, 1H), 3.44-3.55 (m, 1H), 2.46 (s, 3H), 2.34 (s, 3H), 1.34-1.74 (m, 6H).

reactant | (±)-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-5-vinyl-1H-indole | 4.2 mmol, 1.8 g | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1)C=C | C24H27NO4S
reactant | H2O | 70 mL | O | H2O
reactant | AD-mix-alpha | 4.2 mmol, 5 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | tert-BuOH | 70 mL | C(C)(C)(C)O | C4H10O
product | (±)-1-(7-Methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indol-5-yl)ethane-1,2-diol | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1)C(CO)O | C24H29NO6S
